US07872009B2
Step 2: 1-cyclopentyl-6-oxo-1,6-dihydropyridazine-3-carboxylic acid
Cyclopentyl-1-cyclopentyl-6-oxo-1,6-dihydropyridazine-3-carboxylate (20 mg, 0.072 mmol) was dissolved in 2 ml THF/water (1/1) and 2 ml NaOH (5M, aq.) was added. The reaction was stirred at 40° C. for 2 h and 5 ml HCl (5M, aq.) was added. The reaction was concentrated and 10 ml of CH2Cl2/MeOH (1/1) was added and the reaction was sonicated for 10 min and filtered. The filtrate was concentrated and used in the next step without further purification. Yield: 11 mg (0.052 mmol, 73%, film, MS m/z: 209(100%, M+1).

reactant | Cyclopentyl-1-cyclopentyl-6-oxo-1,6-dihydropyridazine-3-carboxylate | 0.072 mmol, 20 mg | C1(CCCC1)OC(=O)C1=NN(C(C=C1)=O)C1CCCC1 | C15H20N2O3
reactant | NaOH | 5M, 2 ml | [OH-].[Na+]
reactant | HCl | 5M, 5 ml | Cl | ClH
solvent | THF water | 2 ml | C1CCOC1.O
product | 1-cyclopentyl-6-oxo-1,6-dihydropyridazine-3-carboxylic acid | C1(CCCC1)N1N=C(C=CC1=O)C(=O)O | C10H12N2O3
